US06166052
N-Boc-O-Benzyl-tyrosine (20.0 g, 53.9 mmol) was dissolved in DMF (270 mL) and treated with diisopropylethylamine (19 mL, 108 mmol), tert-butylamine (5.7 mL. 53.9 mmol), and HBTU (13.9 g, 53.9 mmol). The reaction was stirred for 15 minutes and then diluted with EtOAc (1 L), washed with saturated bicarbonate solution (2×1 L) and brine (1 L), dried over Na2SO4 and concentrated to give 22.1 g (92%) of (S)-[2-(4-Benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-carbamic acid tert-butyl ester.

reactant | N-Boc-O-Benzyl-tyrosine | 53.9 mmol, 20.0 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O | C21H25NO5
reactant | diisopropylethylamine | 108 mmol, 19 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butylamine | 53.9 mmol, 5.7 mL | C(C)(C)(C)N | C4H11N
reactant | HBTU | 53.9 mmol, 13.9 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 270 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 1 L | CCOC(=O)C | C4H8O2
product | (S)-[2-(4-Benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-carbamic acid tert-butyl ester | 22.1 g, 92% | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(NC(C)(C)C)=O)=O | C25H34N2O4
